US06020345
Stage 1: 2-furan-2-yl-6-methylpyridine
40 ml of a 1.6 M solution of n-butyllithium in hexane are introduced dropwise into a solution of 4.36 ml of furan (60 mmol) and 40 ml of tetrahydrofuran cooled to 0° C. The solution is stirred for 3 hours at 0° C. and then it is cooled to -40° C. before introducing 120 ml of a 0.5 M solution of zinc dichloride in tetrahydrofuran. The mixture is stirred for 2 hours at room temperature and then the reaction mixture is added to a solution of 9.17 g of trifluoromethanesulfonic acid 6-methylpyridin-2-yl ester (40 mmol) in 20 ml of tetrahydrofuran containing 2.30 g of tetrakis-(triphenylphosphine)palladium (2 mmol). The reaction mixture is maintained under reflux for 2 hours under nitrogen and then cooled and extracted with 1N HCl. The acidic aqueous phase is neutralized with 10N NaOH and then extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate, filtered and the solvent evaporated off. The expected product is isolated by rectification under reduced pressure.

reactant | n-butyllithium | C(CCC)[Li]
reactant | furan | 60 mmol, 4.36 ml | O1C=CC=C1 | C4H4O
reactant | trifluoromethanesulfonic acid 6-methylpyridin-2-yl ester | 40 mmol, 9.17 g | CC1=CC=CC(=N1)OS(=O)(=O)C(F)(F)F | C7H6F3NO3S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml, 2.30 g | O1CCCC1 | C4H8O
catalyst | zinc dichloride | [Cl-].[Cl-].[Zn+2]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-furan-2-yl-6-methylpyridine | Yield: 81.5% | O1C(=CC=C1)C1=NC(=CC=C1)C | C10H9NO
